US05849916
Preparation of 3-(Dimethylamino)-2-(methoxymethyl)-2-propenal, (E)-- and (Z)--
Concentrated sulfuric acid (1 mL) is slowly added to a solution of 3-(dimethylamino)-2-propenal (200 g, 2.01 mol) and paraformaldehyde (90 g, 3 mol) in methanol (1 L). The resultant solution is refluxed overnight, concentrated in vacuo to a volume of 200 mL, diluted with toluene and distilled until the vapor temperature is 105° C. The solution is then concentrated in vacuo to give the title product as an orange oil (251.4 g, 87% yield).

reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-(dimethylamino)-2-propenal | 2.01 mol, 200 g | CN(C=CC=O)C | C5H9NO
reactant | paraformaldehyde | 3 mol, 90 g | C=O | CH2O
reactant | methanol | 1 L | CO | CH4O
product | 3-(Dimethylamino)-2-(methoxymethyl)-2-propenal | 251.4 g, 87% yield | CN(C=C(C=O)COC)C | C7H13NO2
